US04683241
2-pivaloyloxybenzophenone
1 g. (0.005 mole) of O-hydroxybenzophenone was warmed in 25 mls of dry pyridine containing 1 g (0.01 mole) of pivaloyl chloride for 3 hrs. at 50° C. Poured into H2O containing 2 g of Na2CO3 and extracted with EtOAc+Et2O and washed with H2O. After drying over Na2SO4 and filtration, the product was isolated by evaporation of the solvent. Oily material. 1.2 g. (85%) yield.

reactant | O-hydroxybenzophenone | 0.005 mole | C1=CC=C(C=C1)C(=O)C2=CC=CC=C2O | C13H10O2
reactant | pyridine | 0.01 mole, 25 mls, 1 g | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 2 g | O | H2O
product | 2-pivaloyloxybenzophenone | C(C(C)(C)C)(=O)OC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C18H18O3
